US08802673B2
(R)-tert-Butyl 2-(4-(5-(benzyloxy)pyrimidin-2-ylamino)phenyl)morpholine-4-carboxylate (0.36 g) was combined with MeOH (15 ml) and THF (5 ml) to give a light brown solution. The mixture was degassed by bubbling through argon for several minutes. Palladium on charcoal (41.4 mg, 10%) was added. The reaction mixture was then stirred under a balloon filled with argon overnight. The reaction mixture was then filtered through celite and concentrated in vacuo to afford (R)-tert-butyl 2-(4-(5-hydroxypyrimidin-2-ylamino)phenyl)morpholine-4-carboxylate (311 mg, quant.) as a light brown foam which was used in the next step without further purification. MS (ISP): 373.2 ([M+H]+).

reactant | (R)-tert-Butyl 2-(4-(5-(benzyloxy)pyrimidin-2-ylamino)phenyl)morpholine-4-carboxylate | 0.36 g | C(C1=CC=CC=C1)OC=1C=NC(=NC1)NC1=CC=C(C=C1)[C@@H]1CN(CCO1)C(=O)OC(C)(C)C | C26H30N4O4
reactant | MeOH | 15 ml | CO | CH4O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (R)-tert-butyl 2-(4-(5-hydroxypyrimidin-2-ylamino)phenyl)morpholine-4-carboxylate | 311 mg | OC=1C=NC(=NC1)NC1=CC=C(C=C1)[C@@H]1CN(CCO1)C(=O)OC(C)(C)C | C19H24N4O4
